US05599813
tert-Butyl 3-cyclobutyl-3-oxopropionate
In a mixture of 100 ml of dichloromethane and 15 ml of pyridine was dissolved 12.2 g of meldrum's acid. Under cooling with ice, 10.0 g of cyclobutane carboxychloride was added dropwise to the solution, followed by stirring under room temperature for 2 hours. The solvent was removed under reduced pressure and to the residue was added water. The mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure. The residue was dissolved in 100 ml of tert-butanol and the solution was heated under reflux for 5 hours. The solvent was removed under reduced pressure and the residue was subjected to column chromatography using 100 g of silica gel. The oily titled compound (7.8 g) was obtained from a chloroform eluate fraction.

reactant | meldrum's acid | 12.2 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | cyclobutane carboxychloride | 10.0 g | C(=O)(O)Cl.C1CCC1
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-cyclobutyl-3-oxopropionate | 7.8 g | C1(CCC1)C(CC(=O)OC(C)(C)C)=O | C11H18O3
